US08859773B2
Step 3: ethyl 1-chloroisoquinoline-7-carboxylate
1-Chloroisoquinoline-7-carbonyl chloride (3.02 g, 13.4 mmol) was dissolved in tetrahydrofuran (135 mL) and was cooled to 0° C. Ethanol (6.1 mL, 94 mmol) and triethylamine (2.05 mL, 14.7 mmol) were added. The reaction was allowed to warm to room temperature and stir for 2 hours. The reaction mixture was partitioned between ethyl acetate (500 mL) and saturated aqueous sodium bicarbonate (250 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated to give the title compound (3.0 g, 96%) as a yellow solid. +ESI (M+H) 236.1; 1H NMR (400 MHz, CDCl3, δ): 9.06 (s, 1H), 8.30-8.39 (m, 2H), 7.89 (d, J=8.6 Hz, 1H), 7.63 (d, J=5.7 Hz, 1H), 4.48 (q, J=7.1 Hz, 2H), 1.46 (t, J=7.1 Hz, 3H).

reactant | 1-Chloroisoquinoline-7-carbonyl chloride | 13.4 mmol, 3.02 g | ClC1=NC=CC2=CC=C(C=C12)C(=O)Cl | C10H5Cl2NO
reactant | Ethanol | 94 mmol, 6.1 mL | C(C)O | C2H6O
reactant | triethylamine | 14.7 mmol, 2.05 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 135 mL | O1CCCC1 | C4H8O
product | ethyl 1-chloroisoquinoline-7-carboxylate | 3.0 g, 96% | ClC1=NC=CC2=CC=C(C=C12)C(=O)OCC | C12H10ClNO2
